US06933304B2
5-Bromo-2-[(3-tetrahydro-2H-pyran-2-yl)propoxy]pyridine.
To a solution of 3-tetrahydropyranyloxy-1-propanol (1.0 g, 6.25 mmol) in DMF (10.0 mL) was added NaH (0.17 g, 95%) and stirred at 0° C. After 30 minutes, 2,5 dibromopyridine (1.0 g, 4.22 mmol) was added and the mixture was stirred at room temperature for 2 hours. The mixture was then poured into 5% cold citric acid (10.0 mL) and extracted with EtOAc (3×15 mL). The combined organic extracts were washed with water (3×15 mL), dried (Na2SO4), and concentrated to dryness. The resulting material was purified by silica gel flash chromatography using 20% EtOAc in hexane containing 0.5% triethyl amine. The appropriate fractions (monitored by TLC in 30% EtOAc in hexane) were combined and concentrated to give the desired product (1.1 g) as a colorless syrup. 1H-NMR and mass spectral data were consistent with the structure.

reactant | 3-tetrahydropyranyloxy-1-propanol | 6.25 mmol, 1.0 g | O1C(CCCC1)OCCCO | C8H16O3
reactant | NaH | 0.17 g | [H-].[Na+]
reactant | 2,5 dibromopyridine | 4.22 mmol, 1.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | citric acid | 10.0 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-[(3-tetrahydro-2H-pyran-2-yl)propoxy]pyridine | 1.1 g | BrC=1C=CC(=NC1)OCCCC1OCCCC1 | C13H18BrNO2
